US07109339B2
Tert-butyl 6-iodo-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate (6.8 g, 17 mmol) was dissolved in DME (50 mL), and potassium hydroxide (4.8 g, 85.4 mmol) and iodomethane (15.7 g, 110.5 mmol) were added and heated at 80° C. in a pressure vessel for 3 h. The reaction was cooled to rt and diluted with ethyl acetate (50 mL). The solids were removed by vacuum filtration. The filtrate was concentrated under reduced pressure to give a brown oil (5.5 g, 79% crude yield). The oil was dissolved in CH2Cl2 (30 mL). Trifluoroacetic acid (30 mL) was added in ten portions over 5 min and stirred for 30 min. The reaction was basified with 50% sodium hydroxide to pH 12. This mixture was extracted with CH2Cl2 (3×150 mL). The organics were collected, dried over magnesium sulfate, filtered and then concentrated under reduced pressure to give 6-iodo-5-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (3.85 g, 73%). 1H NMR (CDCl3 300 MHz) δ 7.62 (d, 1H, J=7.6 Hz), 7.33 (d, 1H, J=7.7 Hz), 6.74 (t, 1H, J=7.5 Hz), 4.03 (s, 2H), 3.95 (s, 3H), 3.26 (t, 2H, J=5.6 Hz), 2.71 (t, 2H, J=5.6 Hz) ppm.

reactant | Tert-butyl 6-iodo-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate | 17 mmol, 6.8 g | IC1=CC=CC=2C3=C(NC12)CCN(C3)C(=O)OC(C)(C)C | C16H19IN2O2
reactant | potassium hydroxide | 85.4 mmol, 4.8 g | [OH-].[K+]
reactant | iodomethane | 110.5 mmol, 15.7 g | IC | CH3I
reactant | Trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DME | 50 mL | COCCOC | C4H10O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 6-iodo-5-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 3.85 g, 73% | IC1=CC=CC=2C3=C(N(C12)C)CCNC3 | C12H13IN2
